US06531492B1
Step 1: 3-NITRO-6-(METHYLTHIO)PYRIDINE
2-Mercapto-5-nitro pyridine (20.0 g, 128 mmol) was suspended in water/ethanol (43 mL/13 mL). Sodium carbonate monohydrate (17.49 g, 141 mmol, dissolved in 86 mL of water) was added to the above slurry dropwise. Methyl iodide (20.0 g, 141 mmol) was added to the above mixture and the mixture was stirred at room temperature for one hour. The solid was filtered and washed with water and ethanol to provide the title compound in quantitative yield.

reactant | 2-Mercapto-5-nitro pyridine | 128 mmol, 20.0 g | SC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O2S
reactant | Sodium carbonate monohydrate | 141 mmol, 86 mL, 17.49 g | O.C([O-])([O-])=O.[Na+].[Na+]
reactant | Methyl iodide | 141 mmol, 20.0 g | CI | CH3I
solvent | water ethanol | 43 mL | O.C(C)O
product | 3-NITRO-6-(METHYLTHIO)PYRIDINE | quantitative yield | [N+](=O)([O-])C=1C=NC(=CC1)SC | C6H6N2O2S
